US05998433
b) Synthesis of 6-[4-(1-phenylethenyl)benzoyl]-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride
6-[4-(1-Phenylethenyl)benzoyl]-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine 0.688 g was dissolved in 2 ml of methanol and hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated to yield the desired product.

reactant | 6-[4-(1-Phenylethenyl)benzoyl]-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 0.688 g | C1(=CC=CC=C1)C(=C)C1=CC=C(C(=O)N2CC3=C(CC2)C=C(O3)CN3CCCC3)C=C1 | C27H28N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 6-[4-(1-phenylethenyl)benzoyl]-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | Cl.C1(=CC=CC=C1)C(=C)C1=CC=C(C(=O)N2CC3=C(CC2)C=C(O3)CN3CCCC3)C=C1 | InChI=1S/C27H28N2O2.ClH/c1-20(21-7-3-2-4-8-21)22-9-11-23(12-10-22)27(30)29-16-13-24-17-25(31-26(24)19-29)18-28-14-5-6-15-28;/h2-4,7-12,17H,1,5-6,13-16,18-19H2;1H
